US09120749B2
tert-Butyl {trans-4-[6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino]cyclohexyl}(methyl)carbamate
Following general procedure B, (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone (335 mg, 1.07 mmol) was reacted with tert-butyl-(trans)-4-aminocyclohexyl(methyl)carbamate (366 mg, 1.61 mmol) to afford the desired product (470 mg, 87%) as an orange foam: ESI MS m/z 502 [C25H32BrN3O3+H]+.

reactant | (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone | 1.07 mmol, 335 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)Cl | C13H9BrClNO
reactant | tert-butyl-(trans)-4-aminocyclohexyl(methyl)carbamate | 1.61 mmol, 366 mg | C(C)(C)(C)OC(N(C)[C@@H]1CC[C@H](CC1)N)=O | C12H24N2O2
product | tert-Butyl {trans-4-[6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino]cyclohexyl}(methyl)carbamate | 470 mg, 87% | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N[C@@H]1CC[C@H](CC1)N(C(OC(C)(C)C)=O)C | C25H32BrN3O3
